US07825109B2
[6-(4-phenylbutoxy)-3,4-dihydronaphthalen-1(2H)-ylidene]acetonitrile (E/Z mixture)
To a solution of 6-(4-phenylbutoxy)-3,4-dihydronaphthalen-1(2H)-one (300 mg) in tetrahydrofuran (10 mL), diethyl cyanomethylphosphonate (199 mg) and sodium hydride (60%, 97.8 mg) were added, followed by stirring at room temperature for 24 hours. After adding water, the reaction, mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, concentrated and then purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to thereby give the title compound (E/Z mixture, 207 mg) having the following physical properties.

reactant | 6-(4-phenylbutoxy)-3,4-dihydronaphthalen-1(2H)-one | 300 mg | C1(=CC=CC=C1)CCCCOC=1C=C2CCCC(C2=CC1)=O | C20H22O2
reactant | diethyl cyanomethylphosphonate | 199 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 97.8 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [6-(4-phenylbutoxy)-3,4-dihydronaphthalen-1(2H)-ylidene]acetonitrile | 207 mg | C1(=CC=CC=C1)CCCCOC=1C=C2CCCC(C2=CC1)=CC#N | C22H23NO
